US20010000513A1
To a stirred solution of 4-(2′-fluoro-biphenyl-4-yl)-4-oxo-butyric acid, methyl ester (7.17 g, 0.0250 mol) in tetrahydrofuran (60 mL) at room temperature was added a solution of sodium hydroxide (1.04 g, 0.026 mol) in methanol (60 mL), and the mixture was stirred for 23 hours. To the reaction was added 1.0 M aqueous sodium hydroxide (10 mL), and the mixture was stirred for an additional 24 hours. The mixture was rotary evaporated, and the residue was partitioned between water and chloroform. The aqueous layer was washed with chloroform (3×) and acidified with concentrated hydrochloric acid to pH=3. The resulting solids were filtered, washed with dilute aqueous hydrochloric acid (p=3), and dried under house vacuum (air bleed) to give 6.51 g of 4-(2′-fluoro-biphenyl-4-yl)-4-oxo-butyric acid as a pale yellow solid; mp 148-153° C.

reactant | 4-(2′-fluoro-biphenyl-4-yl)-4-oxo-butyric acid, methyl ester | 0.0250 mol, 7.17 g | FC1=C(C=CC=C1)C1=CC=C(C=C1)C(CCC(=O)OC)=O | C17H15FO3
reactant | sodium hydroxide | 0.026 mol, 1.04 g | [OH-].[Na+]
reactant | sodium hydroxide | 1.0 M, 10 mL | [OH-].[Na+]
solvent | tetrahydrofuran | 60 mL | O1CCCC1 | C4H8O
solvent | methanol | 60 mL | CO | CH4O
product | 4-(2′-fluoro-biphenyl-4-yl)-4-oxo-butyric acid | 6.51 g | FC1=C(C=CC=C1)C1=CC=C(C=C1)C(CCC(=O)O)=O | C16H13FO3
